US03946049
C. 5-(p-Chlorophenyl)-2-furamidoxime
A mixture of 51 g (0.25 mole) of 5-(p-chlorophenyl)-2-furonitrile, 19 g (0.27 mole) of hydroxylamine hydrochloride, 18 g (0.27 mole) of potassium hydroxide and 750 ml of absolute ethanol was heated under reflux for 1 hour. The reaction mixture was concentrated on a rotary evaporator and cooled in ice overnight. The solid was collected by filtration and washed with anhydrous ether to give 43 g (73%). Two recrystallizations from absolute ethanol gave an analytical sample, m.p. 167°-169°.

reactant | 5-(p-chlorophenyl)-2-furonitrile | 0.25 mole, 51 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C#N | C11H6ClNO
reactant | hydroxylamine hydrochloride | 0.27 mole, 19 g | Cl.NO
reactant | potassium hydroxide | 0.27 mole, 18 g | [OH-].[K+]
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | 5-(p-Chlorophenyl)-2-furamidoxime | ClC1=CC=C(C=C1)C1=CC=C(O1)C(N)=NO | C11H9ClN2O2
